US05639752
T. 5-(6-Methoxy-3-nitropyrid-2-ylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
(R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole and 2-chloro-6-methoxy-3-nitropyridine were used. Triethylamine was used as base, absolute ethanol was used as solvent, and the reaction was heated at reflux for 5.5 hours. Column chromatography afforded the title compound (54%) as a red amorphous solid: 1H NMR (CDCl3) δ8.80 (br s, NH), 8.37 (d, J=9.1 Hz, 1H), 7.85 (s, 1H), 7.34-7.28 (m, 7.03) (d, J=2.0 Hz, 1H), 6.14 (d, J=9.1 Hz, 1H), 3.85 (s, 3H), 3.19-3.11 (m, 2H) (dd, J=13.8 and 9.5 Hz, 1H), 2.54-2.45 (m, 1H), 2.45 (s, 3H), 2.24 (dd, J=17.1 and 9.3 Hz, 1H), 1.91-1.54 (m, 4H); 13C NMR (CDCl3) δ166.9, 151.3, 138.2, 134.0, 129.6, 127.8, 123.3, 122.0, 118.6, 114.1, 113.3, 111.1, 102.0, 66.5, 57.5, ,54.7, 40.8, 31.6, 29.9, 21.9; HRMS calculated for C20H23N5O3 381.1 803, found 381.1799.

reactant | (R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H19N3
reactant | 2-chloro-6-methoxy-3-nitropyridine | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 5-(6-Methoxy-3-nitropyrid-2-ylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 54% | COC1=CC=C(C(=N1)NC=1C=C2C(=CNC2=CC1)CC1N(CCC1)C)[N+](=O)[O-] | C20H23N5O3
